* File: aoi21_1x.pex.netlist.pex
* Created: Thu Apr  2 14:00:13 2020
* Program "Calibre xRC"
* Version "v2017.3_29.23"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AOI21_1X_F 1 2 3 9 17
c26 9 0 0.0321667f
c27 2 0 0.0194288f
c28 1 0 0.0615835f
r29 9 10 102.4
r30 6 17 0.394615
r31 5 9 2.42857
r32 5 6 102.4
r33 3 17 2.87923
r34 2 10 1.11077
r35 1 6 1.11077
.ends

.subckt PM_AOI21_1X_A 3 7 10 13
c17 13 0 0.0059941f
c18 10 0 0.00202984f
c19 7 0 0.0413399f
c20 3 0 0.0281168f
r21 10 13 89.3538
r22 5 13 4.7687
r23 5 7 76.83
r24 1 13 4.7687
r25 1 3 49.53
.ends

.subckt PM_AOI21_1X_NET23 1 2 5 8 9
c23 9 0 0.01881f
c24 8 0 0.0215092f
c25 5 0 0.0113739f
r26 8 9 102.4
r27 4 8 1.58929
r28 4 5 102.4
r29 2 9 1.11077
r30 1 5 1.11077
.ends

.subckt PM_AOI21_1X_B 3 7 10 13
c19 13 0 0.00482065f
c20 10 0 0.0023945f
c21 7 0 0.0282606f
c22 3 0 0.0198159f
r23 10 13 89.3538
r24 5 13 4.7687
r25 5 7 76.83
r26 1 13 4.7687
r27 1 3 56.55
.ends

.subckt PM_AOI21_1X_C 3 7 10 13
c14 13 0 0.0064774f
c15 10 0 0.00496748f
c16 7 0 0.0416007f
c17 3 0 0.0286289f
r18 10 13 89.3538
r19 5 13 4.7687
r20 5 7 76.83
r21 1 13 4.7687
r22 1 3 56.55
.ends

.subckt PM_AOI21_1X_VSS! 1 3 5 7 13
c21 20 0 0.0021728f
c22 13 0 0.0393958f
c23 5 0 0.0203874f
c24 3 0 0.0153512f
c25 1 0 0.0113536f
r26 14 20 0.160909
r27 13 15 0.212317
r28 13 14 3.77077
r29 9 20 0.0418175
r30 5 20 0.160909
r31 5 7 1.60769
r32 3 15 1.11077
r33 1 9 1.11077
.ends

.subckt PM_AOI21_1X_VDD! 2 3 5 7 13
c20 20 0 0.00223104f
c21 13 0 0.0298686f
c22 5 0 0.030135f
c23 3 0 0.0247664f
c24 2 0 0.0190413f
r25 14 20 0.160909
r26 13 15 0.212317
r27 13 14 2.54308
r28 9 20 0.0418175
r29 5 20 0.160909
r30 5 7 2.82077
r31 3 15 2.16308
r32 2 9 2.16308
.ends

