************************************************************************
* auCdl Netlist:
* 
* Library Name:  sandbox
* Top Cell Name: aoi21_1x
* View Name:     schematic
* Netlisted on:  Apr  2 14:00:03 2020
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: sandbox
* Cell Name:    aoi21_1x
* View Name:    schematic
************************************************************************

.SUBCKT aoi21_1x A B C F vdd! vss!
*.PININFO A:I B:I C:I vdd!:I vss!:I F:O
MM2 F C net26 vss! NMOS_VTL W=180n L=50n m=1
MM1 net26 B vss! vss! NMOS_VTL W=180n L=50n m=1
MM0 vss! A F vss! NMOS_VTL W=90n L=50n m=1
MM5 net23 B vdd! vdd! PMOS_VTL W=360n L=50n m=1
MM4 vdd! C net23 vdd! PMOS_VTL W=360n L=50n m=1
MM3 net23 A F vdd! PMOS_VTL W=360n L=50n m=1
.ENDS

